US04959448
b. 4-((2,2-dimethyl-1,3-dioxa-4-cyclopentyl)methyl)-4'-nitrostilbene
A mixture of 120.5 g of 4-hydroxy-4'-nitrostilbene, 69 g of anhydrous potassium carbonate, 143 g of 2,2-dimethyl-4-(4-methyl phenyl sulphonyloxymethyl)-1,3-dioxolane, prepared in accordance with the specification of K. Freudenberg and H. Hess in Liebigs Annalen der Chemie Vol. 448 (1926), p. 121, and 1 l of dimethyl formamide (DMF) was boiled for 30 minutes with refluxing. After cooling the reaction mixture was poured, with vigorous stirring, into 5 l of water. The precipitated crystals were filtered off and after-washed with 5 1 of water. The crude product after drying was crystallized from 4 l of acetone. Obtained were 135 g of 4-((2,2-dimethyl)-1,3-dioxa-4-cyclopentyl)methyl)-4'nitrostilbene in the form of yellow acicular crystals having a melting point of 146°-147° C.

reactant | 4-hydroxy-4'-nitrostilbene | 120.5 g | OC1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H11NO3
reactant | potassium carbonate | 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-dimethyl-4-(4-methyl phenyl sulphonyloxymethyl)-1,3-dioxolane | 143 g | CC1(OCC(O1)COS(=O)(=O)C1=CC=C(C=C1)C)C | C13H18O5S
reactant | 4'nitrostilbene | [N+](=O)([O-])C1=CC=C(C=CC2=CC=CC=C2)C=C1 | C14H11NO2
solvent | water | 5 l | O | H2O
solvent | dimethyl formamide | 1 l | CN(C=O)C | C3H7NO
product | 4-((2,2-dimethyl-1,3-dioxa-4-cyclopentyl)methyl)-4'-nitrostilbene | CC1(OCC(O1)CC1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-])C | C20H21NO4
